US07528147B2
0.79 g of potassium hydroxide and 0.61 g of potassium carbonate are added to a solution of 1 g of 4-chloro-2-(5,6-dimethoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine and 0.013 g of tetrabutylammonium bromide in 25 ml of 1,2-dichloroethane. The suspension obtained is brought to around 50° C. for approximately 5 hours. After returning to a temperature in the region of 20° C. and agitating at this temperature for approximately 16 hours, the reaction mixture is filtered through celite; the insoluble material is washed with three times 10 ml of dichloromethane. The filtrate is washed with three times 50 ml of water, dried over magnesium sulfate, filtered, and concentrated to dryness under reduced pressure. The residue is purified; by flash chromatography on a silica column [eluent: cyclohexane/ethyl acetate (75/25 by volume)]. 0.62 g of 4-chloro-2-[1-(2-chloroethyl)-5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is obtained in the form of a solid, the characteristics of which are as follows:

reactant | potassium hydroxide | 0.79 g | [OH-].[K+]
reactant | potassium carbonate | 0.61 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-2-(5,6-dimethoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 1 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CNC1=CC(=C(C=C21)OC)OC)S(=O)(=O)C2=CC=C(C=C2)C | C24H20ClN3O4S
reactant | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
catalyst | tetrabutylammonium bromide | 0.013 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-chloro-2-[1-(2-chloroethyl)-5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.62 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)CCCl)S(=O)(=O)C2=CC=C(C=C2)C | C26H23Cl2N3O4S
